US08202885B2
295 mg of rac-(1R*,2R*,4R*)-(2-hydroxy-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl)-acetic acid tert.-butyl ester (intermediate K1A, major racemate) were dissolved in 6 mL THF and cooled to −15° C. To this solution were added dropwise 1.65 mL of a LiAlH4 solution (2.3M in THF). After complete addition the reaction mixture was allowed to warm to 0° C. over 3 h. Under cooling 1M aq. NaOH was added dropwise. The mixture was diluted with THF, filtrated over a pad of celite, washed with THF, EtOAc. The filtrate was evaporated to dryness to give 0.25 g of rac-(1R*,2R*,4R*)-2-(2-hydroxy-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-ol as white solid.

reactant | rac-(1R*,2R*,4R*)-(2-hydroxy-5-phenyl-bicyclo[2.2.2]oct-5-en-2-yl)-acetic acid tert.-butyl ester | 295 mg | C(C)(C)(C)OC(CC1(C2C=C(C(C1)CC2)C2=CC=CC=C2)O)=O | C20H26O3
reactant | LiAlH4 | 2.3M, 1.65 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 1M | [OH-].[Na+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | rac-(1R*,2R*,4R*)-2-(2-hydroxy-ethyl)-5-phenyl-bicyclo[2.2.2]oct-5-en-2-ol | 0.25 g | OCCC1(C2C=C(C(C1)CC2)C2=CC=CC=C2)O | C16H20O2
